US07858613B2
4,4-Bis(hydroxymethyl)-3,4-dihydro-2H-benzo[b]oxepin-5-one
To a solution of 3,4-dihydro-2H-benzo[b]oxepin-5-one (12.0 g; 74 mmol) in 215 ml of tetrahydrofuran were added, at room temperature, potassium carbonate (1.01 g) and formalin solution (44 ml; 36% solution in water). The reaction mixture was stirred at 40° C. for 2 days. The mixture was then diluted with 250 ml of water, and the phases were separated and extracted with ethyl acetate. The crude product was purified by column chromatography on silica gel (eluent: 1:1 hexane/ethyl acetate and ethyl acetate). This gave 4,4-bis(hydroxymethyl)-3,4-dihydro-2H-benzo[b]oxepin-5-one (colorless crystals; 13.1 g; 80%).

reactant | 3,4-dihydro-2H-benzo[b]oxepin-5-one | 74 mmol, 12.0 g | O1C2=C(C(CCC1)=O)C=CC=C2 | C10H10O2
reactant | potassium carbonate | 1.01 g | C([O-])([O-])=O.[K+].[K+]
reactant | formalin | 44 ml | C=O | CH2O
solvent | tetrahydrofuran | 215 ml | O1CCCC1 | C4H8O
solvent | water | 250 ml | O | H2O
product | 4,4-Bis(hydroxymethyl)-3,4-dihydro-2H-benzo[b]oxepin-5-one | OCC1(C(C2=C(OCC1)C=CC=C2)=O)CO | C12H14O4
